US07507740B2
Production of N-{2-[4-({3-chloro-4-[3-(trifluoromethyl)phenoxy]phenyl}amino)-5H-pyrrolo[3,2-d]pyrimidin-5-yl]ethyl}-N′-methylguanidine dihydrochloride
To a solution of N-methyl-N,N′-bis(tert-butoxy carbonyl)-1H-pyrazole-1-carboxamidine (138 mg) and ethyldiisopropylamine (0.16 mL) in acetonitrile (4 mL) was added 5-(2-aminoethyl)-N-{3-chloro-4-[3-(trifluoromethyl)phenoxy]phenyl}-5H-pyrrolo[3,2-d]pyrimidin-4-amine dihydrochloride (200 mg), and the mixture was stirred at room temperature for 4 days. Under ice-cooling, water was added, and the mixture was extracted with ethyl acetate. The extract washed with brine, dried over anhydrous magnesium sulfate and concentrated. The residue was purified by silica gel column chromatography (eluent, ethyl acetate:hexane=80:20→100:0). The obtained product was dissolved in ethyl acetate, 4N hydrochloric acid/ethyl acetate was added, and the mixture was stirred at room temperature for 22 hrs. The precipitate was collected by filtration, and washed with ethyl acetate and diisopropyl ether to give the title compound (98 mg) as a powder.

reactant | N-methyl-N,N′-bis(tert-butoxy carbonyl)-1H-pyrazole-1-carboxamidine | 138 mg | CN(C(=NC(=O)OC(C)(C)C)N1N=CC=C1)C(=O)OC(C)(C)C | C15H24N4O4
reactant | ethyldiisopropylamine | 0.16 mL | C(C)N(C(C)C)C(C)C | C8H19N
reactant | 5-(2-aminoethyl)-N-{3-chloro-4-[3-(trifluoromethyl)phenoxy]phenyl}-5H-pyrrolo[3,2-d]pyrimidin-4-amine dihydrochloride | 200 mg | Cl.Cl.NCCN1C=CC=2N=CN=C(C21)NC2=CC(=C(C=C2)OC2=CC(=CC=C2)C(F)(F)F)Cl
reactant | water | O | H2O
solvent | acetonitrile | 4 mL | C(C)#N | C2H3N
product | N-{2-[4-({3-chloro-4-[3-(trifluoromethyl)phenoxy]phenyl}amino)-5H-pyrrolo[3,2-d]pyrimidin-5-yl]ethyl}-N′-methylguanidine dihydrochloride | 98 mg | Cl.Cl.ClC=1C=C(C=CC1OC1=CC(=CC=C1)C(F)(F)F)NC=1C2=C(N=CN1)C=CN2CCNC(=N)NC | InChI=1S/C23H21ClF3N7O.2ClH/c1-29-22(28)30-8-10-34-9-7-18-20(34)21(32-13-31-18)33-15-5-6-19(17(24)12-15)35-16-4-2-3-14(11-16)23(25,26)27;;/h2-7,9,11-13H,8,10H2,1H3,(H3,28,29,30)(H,31,32,33);2*1H
